US03979381
2,3,3a,4,6,7-Hexahydro-2-propyl-3-[3-(trifluoromethyl)phenyl]-7-[[3-(trifluoromethyl)phenyl]methylene]thiopyrano[4,3-c]pyrazole
A mixture of 4.28g of tetrahydro-3,5-bis-[[3-(trifluoromethyl)phenyl]methylene]-4H-thiopyran-4-one and 962mg of n-propyl hydrazine in 150ml of methanol is heated at reflux temperature for 3 hours and then cooled to room temperature. Solids are collected and washed to give 1.3g of the title compound, melting point 90°-93.5°C. The combined mother liquor and washings are concentrated to 100ml and 15-20ml of water is added to the hot solution. Upon cooling, an additional 1.8g of material is collected and recrystallized from methanol/water to give 1.6g of the title compound, melting point 89°-93°C.

reactant | tetrahydro-3,5-bis-[[3-(trifluoromethyl)phenyl]methylene]-4H-thiopyran-4-one | 4.28g | FC(C=1C=C(C=CC1)C=C1CSCC(C1=O)=CC1=CC(=CC=C1)C(F)(F)F)(F)F | C21H14F6OS
reactant | n-propyl hydrazine | 962mg | C(CC)NN | C3H10N2
solvent | methanol | 150ml | CO | CH4O
product | 2,3,3a,4,6,7-Hexahydro-2-propyl-3-[3-(trifluoromethyl)phenyl]-7-[[3-(trifluoromethyl)phenyl]methylene]thiopyrano[4,3-c]pyrazole | 1.3g | C(CC)N1N=C2C(C1C1=CC(=CC=C1)C(F)(F)F)CSCC2=CC2=CC(=CC=C2)C(F)(F)F | C24H22F6N2S
